US07960365B2
A mixture of 3′-allyl-4′-hydroxyacetophenone (0.352 g, 2.0 mmol), N-phenyl-bis(trifluoromethane) sulfonimide) (0.710 g, 2.0 mmol) and potassium carbonate (0.830 g, 6.0 mmol) in tetrahydrofuran (3.0 ml) was heated in a microwave oven at 120° C. for 10 min. The resultant mixture was treated with 5-fluoro-2-methoxyphenyl boronic acid (0.680 g, 0.4 mmol), tetrakis(triphenylphosphine)palladium (0) (0.060 g, 0.05 mmol) and dimethylformamide (1.0 ml) and heated in a microwave oven at 120° C. for 10 min. The mixture was partitioned between ethyl acetate and dilute aqueous sodium carbonate solution. The organic phase was dried over anhydrous sodium sulfate, the solvent evaporated and the residue purified by flash chromatography over silica gel eluting with 9:1 heptane/ethyl acetate. Evaporation of solvent under reduced pressure gave 1-(2-allyl-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethanone. A solution of 1-(2-allyl-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethanone (0.319 g, 1.1 mmol), sodium cyanoborohydride (0.140 g, 2.2 mmol) and ammomium acetate (1.7 g, 22 mmol) was stirred under nitrogen at ambient temperature for 72 h, evaporated to dryness under reduced pressure and partitioned between dichloromethane and brine. The organic phase was dried over anhydrous sodium sulfate, the solvent evaporated and the residue purified by flash chromatography over silica gel eluting with 98:2 ethyl acetate/2M ammonia in methanol. Evaporation of solvent under reduced pressure gave 1-(2-allyl-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine. To a solution of 1-(2-allyl-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethylamine (19.0 mg, 0.07 mmol) in dichloromethane (1 ml) was added triethylamine (6.7 mg, 0.07 mmol) and 3,4-di-fluorophenyl sulfonyl chloride (14.2 mg, 0.06 mmol). The solution was stirred overnight and the solvent evaporated. The residue was purified by flash chromatography over silica gel eluting with dichloromethane. Evaporation of solvent under reduced pressure gave the title compound. 1H NMR (400 MHz, CDCl3): δ 7.52-7.42 (m, 2H), 7.13 (q, 1H), 7.04-6.90 (m, 4H), 6.88-6.83 (m, 1H), 6.77 (q, 1H), 5.67 (dt, 1H), 4.99-4.82 (m, 3H), 4.57 (dq, 1H), 3.71 (s, 3H), 3.09 (br s, 2H), 1.51 (d, 3H) ppm; MS (ESI) m/z: value [M+H]+.

reactant | 3′-allyl-4′-hydroxyacetophenone | 2.0 mmol, 0.352 g | C(C=C)C=1C=C(C=CC1O)C(C)=O | C11H12O2
reactant | potassium carbonate | 6.0 mmol, 0.830 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-2-methoxyphenyl boronic acid | 0.4 mmol, 0.680 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
reactant | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 0.060 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-allyl-5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethanone | C(C=C)C1=C(C=CC(=C1)C(C)=O)C1=C(C=CC(=C1)F)OC | C18H17FO2
